US05780642
1,1'-Carbonyldiimidazole (6.48 g) was added to a solution of 4-chlorophenoxyacetic acid (7.46 g) in THF (144 ml) at ambient temperature. The mixture was stirred for 2 hours and then 1-(5-aminopentyl)imidazole (6.1 g) was added. The mixture was stirred at ambient temperature for 18 hours and then worked up as described in Example 9a to give an oil which was purified by flash chromatography on silica using ethyl acetate/methanol/triethylamine, 18:2:1 as the mobile phase to give 2-(4-chlorophenoxy)-N-[5-(imidazol-1-yl)pentyl]acetamide as an oil.

reactant | 1,1'-Carbonyldiimidazole | 6.48 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chlorophenoxyacetic acid | 7.46 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | 1-(5-aminopentyl)imidazole | 6.1 g | NCCCCCN1C=NC=C1 | C8H15N3
solvent | THF | 144 ml | C1CCOC1 | C4H8O
product | 2-(4-chlorophenoxy)-N-[5-(imidazol-1-yl)pentyl]acetamide | ClC1=CC=C(OCC(=O)NCCCCCN2C=NC=C2)C=C1 | C16H20ClN3O2
